### PR TITLE
feat(PlainCombi): upper bound on l-intersecting families

### LINKED ISSUE #38: Upper bound on l-intersecting families
Let $1 \le \ell < r$ be fixed. If $n$ is large enough and $\mathcal A \subseteq X^{(r)}$ is an $\ell$-intersecting family, then $|\mathcal A| \le \binom{n - \ell}{r - \ell}$.

This is [Theorem 1.17 in the lecture notes](https://github.com/YaelDillies/maths-notes/blob/master/combinatorics.pdf).

### PR DESCRIPTION
**Pull request by guojing0**
This PR closes #38 by following and continuing the work from PR #41.

Developed with Codex.

### CODE REVIEW

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 1]
```diff
@@ -0,0 +1,278 @@
...
+*  `IsIntersectingFamily.card_le_of_sized`: A intersecting family whose underlaying set is of size
+`n` and if all the sets in the family are of size `l` then the size of the family is at most
+`(n-l).choose (r-l)` if `n` is suffintly large.
+-/
+
+
+variable {α : Type*} [DecidableEq α]
+
+def IsIntersectingFamily (l : ℕ) (𝒜 : Set (Finset α)) : Prop :=
+  ∀ a ∈ 𝒜, ∀ b ∈ 𝒜, l ≤ (a ∩ b).card
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]: Can you use `(Set.Ici l).IsIntersectingOf` instead?

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 2]
```diff
@@ -0,0 +1,278 @@
...
+
+## Main statements
+
+*  `IsIntersectingFamily.card_le_of_sized`: A intersecting family whose underlaying set is of size
+`n` and if all the sets in the family are of size `l` then the size of the family is at most
+`(n-l).choose (r-l)` if `n` is suffintly large.
+-/
+
+
+variable {α : Type*} [DecidableEq α]
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion

variable {α : Type*} [DecidableEq α]
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 3]
```diff
@@ -0,0 +1,278 @@
...
+theorem IsIntersectingFamily.le_of_sized {l r : ℕ} {𝒜 : Set (Finset α)}
+    (sized : 𝒜.Sized r) (inter : IsIntersectingFamily l 𝒜)
+    (nonempty : Nonempty 𝒜) : l ≤ r := by
+  obtain ⟨x, x_in_𝒜⟩ := nonempty
+  rw [← sized x_in_𝒜, ← Finset.inter_self x]
+  exact inter x x_in_𝒜 x x_in_𝒜
+
+variable [Fintype α]
+
+theorem  IsIntersectingFamily.card_le_of_sized {l r:ℕ} {𝒜 : Set (Finset α)}
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
theorem IsIntersectingFamily.card_le_of_sized {l r:ℕ} {𝒜 : Set (Finset α)}
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 4]
```diff
@@ -0,0 +1,278 @@
...
+  (sized𝒜 : Set.Sized r 𝒜) (inter : IsIntersectingFamily l 𝒜)
+  (n_much_bigger_r :2 ^ (3 * r) * r * r+ 5 * r ≤ Fintype.card α):
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
  (n_much_bigger_r : 2 ^ (3 * r) * r * r + 5 * r ≤ Fintype.card α):
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 5]
```diff
@@ -0,0 +1,278 @@
...
+  Nat.card 𝒜 ≤ ((Fintype.card α)-l).choose (r-l) := by
+    have fin : Fintype 𝒜 := Fintype.ofFinite ↑𝒜
+    let ℬ := 𝒜.toFinset
+    have 𝒜_eq_ℬ_toSet : ℬ.toSet = 𝒜 := by simp [ℬ]
+    have sizedℬ : @Set.Sized α r ℬ := by rwa [𝒜_eq_ℬ_toSet]
+    have interℬ : IsIntersectingFamily l ℬ.toSet := by rwa [𝒜_eq_ℬ_toSet]
+    simp [←𝒜_eq_ℬ_toSet]
+    clear_value ℬ
+    clear! 𝒜
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
    lift 𝒜 to Finset \alpha using 𝒜.toFinite
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 6]
```diff
@@ -0,0 +1,278 @@
...
+    | of_succ k k_leq_r ind =>
+      by_cases inter_succ_k : IsIntersectingFamily (k + 1) ℬ.toSet
+      · calc
+        _ ≤ (Fintype.card α - (k + 1)).choose (r - (k + 1)) := ind inter_succ_k
+        _ = (Fintype.card α - (k + 1)).choose (Fintype.card α - (k + 1) - (r - (k + 1))) := by
+          rw [Nat.choose_symm]; omega
+        _ = (Fintype.card α - (k + 1)).choose (Fintype.card α - r) := by congr 1;omega
+        _ = (Fintype.card α - k - 1).choose (Fintype.card α - r) := by congr 1
+        _ ≤ (Fintype.card α - k).choose (Fintype.card α - r) := by apply Nat.choose_mono;omega
+        _ ≤ (Fintype.card α - k).choose (Fintype.card α - k - (Fintype.card α - r)) := by
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]: Maybe `open Fintype` at the top of the file to shorten this?

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 7]
```diff
@@ -0,0 +1,278 @@
...
+          rw [Nat.choose_symm];omega
+        _ = (Fintype.card α - k).choose (r - k) := by congr 1; omega
+      simp [IsIntersectingFamily] at inter_succ_k
+      obtain ⟨A₁,A₁_in_ℬ,A₂,A₂_in_ℬ,card_x₁_x₂⟩ := inter_succ_k
+      have k_le_inter := interℬ A₁ A₁_in_ℬ A₂ A₂_in_ℬ
+      have inter_eq_k : #(A₁ ∩ A₂) = k :=
+        Eq.symm (Nat.le_antisymm (interℬ A₁ A₁_in_ℬ A₂ A₂_in_ℬ) (Nat.lt_succ.mp card_x₁_x₂))
+      by_cases s_eq_inter_all : ∃ s , (k ≤ #s) ∧ (∀a∈ℬ, s ⊆ a)
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
      by_cases s_eq_inter_all : ∃ s, k ≤ #s ∧ ∀ a ∈ ℬ, s ⊆ a
```

**Review by YaelDillies — COMMENTED** [review]
There are a lot of formatting issues, can you fix them all?

**Comment by guojing0** [comment]
> There are a lot of formatting issues, can you fix them all?

Yes, certainly. Will try.

**Comment by guojing0** [comment]
Oh sorry I should have mentioned it's ok not to review yet. I only renamed the title and didn't do other changes yet.

**Comment by guojing0** [comment]
I have one question regarding style or organization standard for Lean / `mathlib` code: For the main proof, it goes from line 59 to line 355. Is it standard or preferred to extract several (private) lemmas to reduce the line count for the main proof, or is it ok to have multiple `have`s?

Thank you!

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 8]
```diff
@@ -0,0 +1,354 @@
...
+* `IsIntersectingFamily l 𝒜`: every two distinct elements have intersection of size at
+  least `l`.
+
+## Main statements
+
+* `IsIntersectingFamily.inter_card_ge_of_sized`
+* `IsIntersectingFamily.card_le_of_sized`
+-/
+
+@[expose] public section
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]: Can you move to the declarations that need it?
```suggestion
public section
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 9]
```diff
@@ -0,0 +1,354 @@
...
+
+open Fintype
+
+variable {α : Type*} [DecidableEq α]
+
+abbrev IsIntersectingFamily (l : ℕ) (𝒜 : Set (Finset α)) : Prop :=
+  (Set.Ici l).IsIntersectingOf 𝒜
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]: Can you inline this?

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 10]
```diff
@@ -0,0 +1,354 @@
...
+
+/-- Bridge from the pairwise-distinct intersection hypothesis to an all-pairs cardinality bound.
+
+If every set in `𝒜` has size `r`, `k ≤ r`, and `𝒜` is `k`-intersecting in the sense
+`IsIntersectingFamily k 𝒜`, then for any `a, b ∈ 𝒜` we have `k ≤ (a ∩ b).card`.
+-/
+theorem IsIntersectingFamily.inter_card_ge_of_sized {k r : ℕ} {𝒜 : Set (Finset α)}
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
theorem IsIntersectingFamily.le_card_inter_of_sized {k r : ℕ} {𝒜 : Set (Finset α)}
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 11]
```diff
@@ -0,0 +1,354 @@
...
+variable {α : Type*} [DecidableEq α]
+
+abbrev IsIntersectingFamily (l : ℕ) (𝒜 : Set (Finset α)) : Prop :=
+  (Set.Ici l).IsIntersectingOf 𝒜
+
+/-- Bridge from the pairwise-distinct intersection hypothesis to an all-pairs cardinality bound.
+
+If every set in `𝒜` has size `r`, `k ≤ r`, and `𝒜` is `k`-intersecting in the sense
+`IsIntersectingFamily k 𝒜`, then for any `a, b ∈ 𝒜` we have `k ≤ (a ∩ b).card`.
+-/
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
/-- If every set in `𝒜` has size `r`, `k ≤ r`, and `𝒜` is `k`-intersecting,
then for any `A, B ∈ 𝒜` we have `k ≤ #(A ∩ B)`. -/
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 12]
```diff
@@ -0,0 +1,354 @@
...
+theorem IsIntersectingFamily.inter_card_ge_of_sized {k r : ℕ} {𝒜 : Set (Finset α)}
+    (sized : 𝒜.Sized r) (k_le_r : k ≤ r) (inter : IsIntersectingFamily k 𝒜)
+    {a b : Finset α} (ha : a ∈ 𝒜) (hb : b ∈ 𝒜) : k ≤ (a ∩ b).card := by
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
    {A B : Finset α} (hA : A ∈ 𝒜) (hB : B ∈ 𝒜) : k ≤ #(A ∩ B) := by
```

**Review by YaelDillies — COMMENTED** [review]
I would start by interspersing the informal proof through the formal one using comments

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean (hunk 9 above)
Comment (guojing0) [reply LeanCamCombi/PlainCombi/IntersectingFamilies.lean]: Will do.

I thought about inlining but I guess I misunderstood your previous comment.

**Comment by guojing0** [comment]
> I would start by interspersing the informal proof through the formal one using comments

Thank you. Good idea. I thought of this as well, but was not sure if it's custom.

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 13]
```diff
@@ -0,0 +1,339 @@
...
+
+Let `𝒜` be a family of `r`-subsets of a finite type `α`. If `𝒜` is `l`-intersecting in the sense
+`IsIntersectingFamily l 𝒜` and `card α` is large enough, then
+`Nat.card 𝒜 ≤ ((card α) - l).choose (r - l)`.
+-/
+theorem card_le_of_sized {l r : ℕ} {𝒜 : Set (Finset α)}
+  (sized𝒜 : Set.Sized r 𝒜) (inter : (Set.Ici l).IsIntersectingOf 𝒜)
+  (n_much_bigger_r : 2 ^ (3 * r) * r * r + 5 * r ≤ card α) :
+  Nat.card 𝒜 ≤ ((card α) - l).choose (r - l) := by
+    lift 𝒜 to Finset (Finset α) using 𝒜.toFinite with ℬ hℬ
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]:
```suggestion
    (sized𝒜 : Set.Sized r 𝒜) (inter : (Set.Ici l).IsIntersectingOf 𝒜)
    (n_much_bigger_r : 2 ^ (3 * r) * r * r + 5 * r ≤ card α) :
    Nat.card 𝒜 ≤ ((card α) - l).choose (r - l) := by
  lift 𝒜 to Finset (Finset α) using 𝒜.toFinite with ℬ hℬ
```

Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean]: Why rename the variable?
```suggestion
    lift 𝒜 to Finset (Finset α) using 𝒜.toFinite
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 14]
```diff
@@ -0,0 +1,360 @@
...
+/-- Upper bound for `l`-intersecting families
+
+Let `α` be finite and `𝒜` a family of `r`-element subsets of `α`.
+If `𝒜` is `l`-intersecting and `card α` is sufficiently large,
+then `Nat.card 𝒜 ≤ ((card α) - l).choose (r - l)`.
+-/
+theorem card_le_of_sized {l r : ℕ} {𝒜 : Set (Finset α)}
+    (sized𝒜 : Set.Sized r 𝒜) (inter : (Set.Ici l).IsIntersectingOf 𝒜)
+    (h_card_alpha_large : 2 ^ (3 * r) * r * r + 5 * r ≤ card α) :
+  Nat.card 𝒜 ≤ ((card α) - l).choose (r - l) := by
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean:64]:
```suggestion
    Nat.card 𝒜 ≤ ((card α) - l).choose (r - l) := by
```

File: LeanCamCombi/PlainCombi/IntersectingFamilies.lean [hunk 15]
```diff
@@ -0,0 +1,360 @@
...
+  lift 𝒜 to Finset (Finset α) using 𝒜.toFinite
+  let ℬ : Finset (Finset α) := 𝒜
```
Comment (YaelDillies) [inline LeanCamCombi/PlainCombi/IntersectingFamilies.lean:66]: Can you inline this?

**Review by YaelDillies — COMMENTED** [review]
I know you are using LLMs to process my comments. This is a waste of time on both sides because
1. The LLM is pretty poor at interpreting my comments. With any understanding of the code, it would see that `\mcB` is now useless.
2. The purpose of LeanCamCombi is for me to teach people how to use Lean. I could complete this project in a few weeks myself.

Please reconsider.

**Comment by guojing0** [comment]
> I know you are using LLMs to process my comments. This is a waste of time on both sides because
> 
>     1. The LLM is pretty poor at interpreting my comments. With any understanding of the code, it would see that `\mcB` is now useless.

Sorry for wasting your time and thank you for your reviews.

When I inherited this code, it didn't check/compile, so I asked Codex to fix the issues so that it checks (also without linter warnings). After that, when receiving your comments, I usually read and check every one individually, and then copy and paste to their places in the source file, and refactor other variables if necessary (cf. e.g., `{a b : Finset \alpha} \to {A B : Finset \alpha}` https://github.com/YaelDillies/cam-combi/pull/50#discussion_r3105531044).

In the case of the removing `with ℬ hℬ` change (https://github.com/YaelDillies/cam-combi/pull/50/commits/7810867f1e4102c445e1d29585e38978a7be12bb), I manually removed this and asked Codex to "Refactor accordingly and explain to me why and how you made these changes". Now, after looking into the code more closely and discussing with Codex, you are right that we do not necessarily need `ℬ` in the code. I will be more conscious when LLM is involved.

>     2. The purpose of LeanCamCombi is for me to teach people how to use Lean. I could complete this project in a few weeks myself.
> 
> 
> Please reconsider.

I really appreciate that you are teaching Lean through this project. I will try to step away and rely less on LLM for these proofs, and focus on learning and understanding the underlying mechanics myself.

After knowing that it's okay to "intersperse the informal proof through the formal one using comments", I have been reading through the proof of Theorem 1.17 and relevent parts from PR #41, and trying to understand the codebase, in hope to make bijective correspondence between natural language proof and Lean one, so my last commit (https://github.com/YaelDillies/cam-combi/pull/50/changes/c50de092cf579c8351e985705666e514f5e5668c) has been more about docstrings.

**Comment by guojing0** [comment]
Should I/we need this (and future) PR(s) to `leanprover-community/add-combi` since [the news](https://leanprover.zulipchat.com/#narrow/channel/113486-General-announcements/topic/AddCombi.2C.20maths.20sublibrary.20for.20additive.20combinatorics/with/592703921)?

**Comment by YaelDillies** [comment]
CamCombi could upstream some additive combinatorics results to AddCombi in the future, but this PR isn't additive combinatorics, right?

**Comment by guojing0** [comment]
> CamCombi could upstream some additive combinatorics results to AddCombi in the future, but this PR isn't additive combinatorics, right?

Oh right, thank you for the clarifications. I might have misread that to be CamCombi as well.

**Comment by YaelDillies** [comment]
Note btw that this PR is waiting on you (just to make sure you know)

**Comment by guojing0** [comment]
Yes, I do.
